US07713994B2
4-Methoxymethylene-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione
A mixture of 6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione (390 mg, 1.34 mmole), 10 mL of a 4:1 mixture of acetic anhydride and N,N-dimethylformamide and trimethylorthoformate (1.1 mL, 10.1 mmole) is stirred and heated to reflux. After 30 minutes the solvents are removed and the residue treated with 2:1 hexanes/ethyl acetate, the product is collected by filtration, a yellow solid, 230 mg, (52%), MS (ES+): m/z 333.2 (M+H), used as is in the next step.

reactant | 6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione | 1.34 mmole, 390 mg | N1(CCOCC1)CCOC=1C=C2CC(NC(C2=CC1)=O)=O | C15H18N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethylorthoformate | 10.1 mmole, 1.1 mL | COC(OC)OC | C4H10O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Methoxymethylene-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione | COC=C1C(NC(C2=CC=C(C=C12)OCCN1CCOCC1)=O)=O | C17H20N2O5
